US06211170B1
To a solution of 1-(tert-butyldimethylsilyl)-4(R)-(pyrimidin-2-ylsulfanylmethyl)azetidin-2-one (280 mg, 0.905 mmol) in MeOH (4.5 mL) was added cesium fluoride (206 mg, 1.36 mmol). The reaction mixture was stirred 1.5 h at room temperature, then concentrated under vacuum. The residue was dissolved in CH2Cl2, washed with H2O and brine, dried (MgSO4), filtered and evaporated to give 4(R)-(pyrimidin-2-ylsulfanylmethyl)azetidin-2-one (184 mg) which was used as such. 1H NMR (400 MHz, CDCl3) δ 8.52 (d, J=5.1 Hz, 2H), 7.02 (t, J=5.1 Hz, 1H), 6.13-5.93 (m,1H), 4.04-3.99 (m,1H), 3.54 (dd, J=14.0, 5.4 Hz, 1H), 3.27 (dd, J=14.0, 7.0, 1H), 3.14 (ddd, J=15.0, 5.1, 1.9 Hz, 1H), 2.78 (ddd, J=15.0, 2.2, 1.3 Hz, 1H).

reactant | 1-(tert-butyldimethylsilyl)-4(R)-(pyrimidin-2-ylsulfanylmethyl)azetidin-2-one | 0.905 mmol, 280 mg | [Si](C)(C)(C(C)(C)C)N1C(C[C@@H]1CSC1=NC=CC=N1)=O | C14H23N3OSSi
reactant | cesium fluoride | 1.36 mmol, 206 mg | [F-].[Cs+]
solvent | MeOH | 4.5 mL | CO | CH4O
product | 4(R)-(pyrimidin-2-ylsulfanylmethyl)azetidin-2-one | 184 mg | N1=C(N=CC=C1)SC[C@H]1CC(N1)=O | C8H9N3OS
